US06479608B1
1-t-Butyl-3-isobutyl-3,5,5-trimethyl-piperazin-2-on (1201)
In analogy to Example B21, 1,1-dimethyl-2-t-butylaminoethylamin, methylisobutylketon, chloroform and NaOH are reacted to give the title compound as a colorless oil.

reactant | 1,1-dimethyl-2-t-butylaminoethylamin | CC(CNC(C)(C)C)(C)N | C8H20N2
reactant | methylisobutylketon | CC(=O)CC(C)C | C6H12O
reactant | NaOH | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-t-Butyl-3-isobutyl-3,5,5-trimethyl-piperazin-2-on | C(C)(C)(C)N1C(C(NC(C1)(C)C)(C)CC(C)C)=O | C15H30N2O
